US06399629B1
(E) trans-4-(N-tert-Butoxycarbonylamino)-1-(N-tert-Butoxycarbonyl-N-Methylglycyl)-L-Proline Methyl Ester
A solution of di-tert-butyl dicarbonate (907 mg) in tetrahydrofuran (5 mL) was added to a solution of trans-4-amino-1-(N-tert-butoxycarbonyl-N-methylglycyl)-L-proline methyl ester (D, 0.54 g) in tetrahydrofuran (20 mL). After stirring at room temperature for 6 hr, a solution of di-tert-butyl dicarbonate (907 mg) in tetrahydrofuran (5 mL) was added again and stirred for 16 hr. The solvent was removed in vacuo, and the residue was purified by silica gel column chromatography (chloroform then chloroform-methanol=50:1,v/v) to afford the title compound (292 mg) as a colorless foam. The compound appears as a mixture of rotamers: 1H NMR (400 MHz, CDCl3) δ 1.43 (s, 9H), 1.46 (s, 9H), 2.05-2.18 (m, 1H), 2.18-2.35 (m, 1H), 2.94 and 2.98 (each s, total 3H), 3.30-3.94 (m, 4H), 3.73 (s, 3H), 4.21-4.41 (m, 1H), 4.52-4.62 (m, 1H), 4.62-4.72 (m, 0.51), and 5.13-5.23 (m, 0.5H); mass spectrum (EI+) m/e 415 (M+); (FAB+) m/e 416 (M+1).

reactant | di-tert-butyl dicarbonate | 907 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | trans-4-amino-1-(N-tert-butoxycarbonyl-N-methylglycyl)-L-proline methyl ester | 0.54 g | COC([C@H]1N(C[C@@H](C1)N)C(CN(C)C(=O)OC(C)(C)C)=O)=O | C14H25N3O5
reactant | di-tert-butyl dicarbonate | 907 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | trans-4-(N-tert-Butoxycarbonylamino)-1-(N-tert-Butoxycarbonyl-N-Methylglycyl)-L-Proline Methyl Ester | 292 mg | COC([C@H]1N(C[C@@H](C1)NC(=O)OC(C)(C)C)C(CN(C)C(=O)OC(C)(C)C)=O)=O | C19H33N3O7
